US07589232B2
Step b) Formation of 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)hexanamide and NaOH 5N aq in the presence of EtOH as a white foam (87%). 1R NMR (CDCl3, 300 MHz) δ 10.72 (s, 1H), 7.56 (d, J=2.5 Hz, 1H), 7.43 (m, 4H), 7.17 (m, 4H), 7.04 (dd, J=8.8, 2.5 Hz, 1H), 6.95 (d, J=8.8 Hz, 1H), 4.88 (s, 2H), 2.62 (t, J=7.7 Hz, 2H), 2.10 (t, J=7.6 Hz, 2H), 1.61 (m, 4H), 1.36 (m, 2H), 1.22 (m, 4H), 0.93 (t, J=7.3 Hz, 3H), 0.84 (t, J=6.7 Hz, 3H). M− (ESI): 496.4; M+ (ESI): 498.4. HPLC, Rt: 5.84 min (Purity: 100%).

reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)hexanamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C35H39NO4
reactant | NaOH | 5N | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]-2-hydroxybenzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(CCCCC)=O)C=C1 | C32H35NO4
